US06262044B1
Phthalic dicarboxaldehyde (52 mg, 0.36 mmol) was dissolved in a mixture of anhydrous acetonitrile (2 ml) and acetic acid (44 μl, 0.72 mmol). The above 2-amino-5-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (0.11 g, 0.36 mmol) was added and the reaction stirred for 20 minutes at room temperature. The volatiles were evaporated in vacuo and the residue dissolved in ethyl acetate (25 ml). The organic mixture was washed with saturated sodium bicarbonate (5 ml), 1% hydrochloric acid (5 ml), brine (5 ml), dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified by chromatography using a gradient from 15% ethyl acetate/dichloromethane to 17% ethyl acetate/dichloromethane as eluent affording 45 mg (30%) of 2-amino-5-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as a solid.

reactant | acetic acid | 0.72 mmol, 44 μl | C(C)(=O)O | C2H4O2
reactant | 2-amino-5-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.36 mmol, 0.11 g | C(C)(C)(C)OC(=O)C1=C(SC=2COC(CC21)CN)N | C13H20N2O3S
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-amino-5-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 45 mg, 30% | C(C)(C)(C)OC(=O)C1=C(SC=2COC(CC21)CN2C(C1=CC=CC=C1C2)=O)N | C21H24N2O4S
